US08802704B2
Step 3: 2-ethoxy-2′-(trifluoromethyl)biphenyl-4-carboxylic acid
A 5 N aqueous solution of NaOH (4.1 mL, 20.5 mmol) was added into a solution of methyl 2-ethoxy-2′-(trifluoromethyl)biphenyl-4-carboxylate (4.45 g, 13.7 mmol) in EtOH (45 mL). The reaction mixture was heated at 60° C. for 30 minutes, and then concentrated under reduced pressure. The residue was taken up with water (50 mL) and a 5N aqueous solution of HCl (7 ml), and then extracted with MTBE (2×100 mL). The organic layers were washed with brine (50 mL), dried over MgSO4 and concentrated under reduced pressure to give a colorless oil. After precipitation from pentane, the title compound was obtained as a white powder. HPLC (Method A), Rt 4.3 min (purity: 99.7%). LC/MS (Method B): M− (ESI): 309.0.

reactant | NaOH | 20.5 mmol, 4.1 mL | [OH-].[Na+]
reactant | methyl 2-ethoxy-2′-(trifluoromethyl)biphenyl-4-carboxylate | 13.7 mmol, 4.45 g | C(C)OC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1)C(F)(F)F | C17H15F3O3
solvent | EtOH | 45 mL | CCO | C2H6O
product | 2-ethoxy-2′-(trifluoromethyl)biphenyl-4-carboxylic acid | C(C)OC1=C(C=CC(=C1)C(=O)O)C1=C(C=CC=C1)C(F)(F)F | C16H13F3O3
